US05656658
d) 2-Fluoro-5-methoxyphenol
The method used to prepare the phenol is basically the procedure reported by Claudi et. al. [med. Chem. 33, 2408-2412 (1990) with modification according to Lambooy [J. Amer. Chem. Soc. 72, 5327-5328 (1950)]. In a three-necked round-bottom flask (1000 mL), equipped with dropping-funnel and a magnetic stirrer, 2-fluoro-methoxyaniline (11.3 g, 80 mmol ), concentrated sulfuric acid (35 mL) and water (200 mL) were mixed and then cooled to 3°-5° C. A solution of sodium nitrite (6.07 g; 88 mmol) in water (20 mL) was added dropwise to the stirred mixture above at 2°-4° C. When the addition was completed the solution was stirred for five minutes and then urea (0.48 g) was added followed by water (100 mL). Meanwhile an apparatus was prepared consisting of a three-necked round-bottom flask (1000 mL), a thermometer, an electrical heating mantle, a steam distillation apparatus, and long (40 cm) water-jacketed condensor on top of which a 500 mL dropping funnel was attached. In the flask CuSO4 x5H2O (56 g), concentrated sulfuric acid (160 mL) and water (160 mL) were placed. The mixture was heated to 150° C., the diazonium salt solution, cooled all the time by adding small chunks of the ice to it, was added dropwise from the dropping funnel, and a current of steam was passed through the system to remove the phenol. The distillate was extracted with ether (3×400 mL) and the combined ether extracts were dried (MgSO4), filtered and concentrated in vacuo. The crude phenol was purified on a silica column eluted with ether/n-hexane (15:85) to afford 4.03 g of the title compound as a crystalline solid. Mp. 25°-26° C.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2-fluoro-methoxyaniline | 80 mmol, 11.3 g | FC1=C(NOC)C=CC=C1 | C7H8FNO
reactant | sulfuric acid | 35 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 88 mmol, 6.07 g | N(=O)[O-].[Na+]
reactant | urea | 0.48 g | NC(=O)N | CH4N2O
solvent | water | 20 mL | O | H2O
solvent | water | 100 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 2-Fluoro-5-methoxyphenol | 4.03 g | FC1=C(C=C(C=C1)OC)O | C7H7FO2
